### PR TITLE
feat: add sublist decidability

### PR DESCRIPTION
**Pull request by AdrienChampion**
Migrates `List.Sublist` decidability from Mathlib

There are efficiency concerns on the operation, so this version relies on a (tailrec) `List.isSublist` function unlike the Mathlib version.

### CODE REVIEW

File: Std/Data/List/Basic.lean [hunk 1]
```diff
@@ -443,6 +443,22 @@ inductive Sublist {α} : List α → List α → Prop
...
+  | l₁@(hd₁::tl₁), hd₂::tl₂ =>
+    if hd₁ = hd₂
+    then tl₁.isSublist tl₂
+    else l₁.isSublist tl₂
+
+instance instDecidableIsSublist [DecidableEq α] (l₁ l₂ : List α) : Decidable (l₁.isSublist l₂) :=
+  if h : l₁.isSublist l₂ then
+    isTrue h
+  else
+    isFalse h
```
Comment (digama0) [inline Std/Data/List/Basic.lean:459]: this instance is not necessary, it's a special case of `(b : Bool) : Decidable b`

File: Std/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -451,6 +451,30 @@ theorem Sublist.eq_of_length_le (s : l₁ <+ l₂) (h : length l₂ ≤ length l
...
+          intro h_sub
+          apply Sublist.cons
+          exact isSublist_iff_sublist.mp h_sub,
+        by
+          intro h_sub
+          cases h_sub
+          case cons h_sub =>
+            exact isSublist_iff_sublist.mpr h_sub
+          case cons₂ =>
+            contradiction⟩
```
Comment (digama0) [inline Std/Data/List/Lemmas.lean:472]:
```suggestion
      constructor
      · intro h_sub
        apply Sublist.cons
        exact isSublist_iff_sublist.mp h_sub
      · intro h_sub
        cases h_sub
        case cons h_sub =>
          exact isSublist_iff_sublist.mpr h_sub
        case cons₂ =>
          contradiction
```

File: Std/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -451,6 +451,33 @@ theorem Sublist.eq_of_length_le (s : l₁ <+ l₂) (h : length l₂ ≤ length l
...
+
+instance instDecidableSublist [DecidableEq α] : DecidableRel (@Sublist α) := fun l₁ l₂ => by
+  rw [← isSublist_iff_sublist]
+  if h : l₁.isSublist l₂ then
+    exact isTrue h
+  else
+    exact isFalse h
```
Comment (digama0) [inline Std/Data/List/Lemmas.lean:479]:
```suggestion
  decidable_of_iff isSublist_iff_sublist
```
untested, but something along these lines should work

File: Std/Data/List/Basic.lean (hunk 1 above)
Comment (AdrienChampion) [reply Std/Data/List/Basic.lean]: fixed in [f6dd8fb](https://github.com/leanprover/std4/pull/229/commits/f6dd8fbea4cfa82149f044c53ffd8ccaeaebb43e)

File: Std/Data/List/Lemmas.lean (hunk 2 above)
Comment (AdrienChampion) [reply Std/Data/List/Lemmas.lean]: fixed in 669be061668d1501cb44d78324646430b3d74740

File: Std/Data/List/Lemmas.lean (hunk 3 above)
Comment (AdrienChampion) [reply Std/Data/List/Lemmas.lean]: fixed in [fa204f1](https://github.com/leanprover/std4/pull/229/commits/fa204f15580b15e1a854e5618b47350d1ec118bf)

File: Std/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -451,6 +451,27 @@ theorem Sublist.eq_of_length_le (s : l₁ <+ l₂) (h : length l₂ ≤ length l
...
+        exact isSublist_iff_sublist.mp h_sub
+      · intro h_sub
+        cases h_sub
+        case cons h_sub =>
+          exact isSublist_iff_sublist.mpr h_sub
+        case cons₂ =>
+          contradiction
+
+instance instDecidableSublist [DecidableEq α] : DecidableRel (@Sublist α) := fun l₁ l₂ =>
+  decidable_of_iff (l₁.isSublist l₂) isSublist_iff_sublist
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:473]:
```suggestion
instance [DecidableEq α] (l₁ l₂ : List α) : Decidable (l₁ <+ l₂) :=
  decidable_of_iff (l₁.isSublist l₂) isSublist_iff_sublist
```

Comment (AdrienChampion) [reply Std/Data/List/Lemmas.lean]: fixed by be595dca

File: Std/Data/List/Basic.lean [hunk 5]
```diff
@@ -443,6 +443,16 @@ inductive Sublist {α} : List α → List α → Prop
...
 
+/-- True if the first list is a potentially non-contiguous sub-sequence of the second list. -/
+def isSublist [DecidableEq α] : List α → List α → Bool
+  | [], _ => true
+  | _, [] => false
+  | l₁@(hd₁::tl₁), hd₂::tl₂ =>
+    if hd₁ = hd₂
+    then tl₁.isSublist tl₂
+    else l₁.isSublist tl₂
+
```
Comment (digama0) [inline Std/Data/List/Basic.lean:454]:
```suggestion
```
